US07417169B2
Ethyl 3-methoxy-4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
A mixture of ethyl 3-methoxy-4-trifluoromethanesulfonyloxybenzoate (0.657 g), bis(pinacolato)diboron (0.559 g), [bis-(diphenylphosphino)ferrocene]dichloropalladium (0.044 g), bis(diphenylphosphino)ferrocene (0.033 g) and potassium acetate (0.589 g) in 1,4-dioxane (4 mL) was stirred at 80° C. for 24 hrs. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/5) to afford the title compound (0.079 g).

reactant | ethyl 3-methoxy-4-trifluoromethanesulfonyloxybenzoate | 0.657 g | COC=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C11H11F3O6S
reactant | bis(pinacolato)diboron | 0.559 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.589 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene | 0.033 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Ethyl 3-methoxy-4-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.079 g | COC=1C=C(C(=O)OCC)C=CC1B1OC(C(O1)(C)C)(C)C | C16H23BO5
